US07067540B2
3-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-(morpholin-4-ylmethyl)pyridin-2(1H)-one
The title compound was prepared by reacting 5-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-oxo-1,6-dihydropyridine-2-carbaldehyde (0.456 g, 1 mmol) with morpholine (0.13 ml, 1.5 mmol) and triacetoxy sodium borohydride (0.42 g, 2.0 mmol) in dichloromethane (7 mL) by using a similar procedure to the one described for Example 468. The crude product was purified by flash column chromatography. Elution with (50:50→0:100) hexanes-ethyl acetate to give 0.15 g (29% yield) of the desired product. 1H NMR (300 MHz, DMSO-d6) δ 7.75-7.57 (m, 2H), 7.43-7.31 (m, 3H), 7.20 (dt, J=8.64, 2.48 Hz, 2H), 6.85 (s, 1H), 5.44 (s, 2H), 3.37 (app t, J=4.37 Hz, 4H), 3.13 (s, 2H), 2.08 (t, J=4.19 Hz, 4H); ES-HRMS m/z 527.0600 (M+H calcd for C23H20BrF4N2O3 requires 527.0594).

reactant | 5-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-oxo-1,6-dihydropyridine-2-carbaldehyde | 1 mmol, 0.456 g | BrC1=C(C=C(N(C1=O)C1=C(C=CC=C1F)F)C=O)OCC1=C(C=C(C=C1)F)F | C19H10BrF4NO3
reactant | morpholine | 1.5 mmol, 0.13 ml | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-(morpholin-4-ylmethyl)pyridin-2(1H)-one | 0.15 g, 29% yield | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)CN1CCOCC1)C1=C(C=CC=C1F)F)=O | C23H19BrF4N2O3
